US07871997B2
B. Reaction of 3b with Vancomycin
Vancomycin hydrochloride, 1a (0.32 g, 0.21 mmol), was dissolved in 3 mL of DMSO. A 0.5 mL solution of PyBOP (0.11 g, 0.21 mmol) and HOAT (0.03 g, 0.21 mmol) in DMF was added, followed by DIPEA (0.04 mL, 0.21 mmol). The reaction was stirred 30 minutes, then TFA (0.02 mL, 0.21 mmol) was added, and the mixture was cooled to 0° C. A solution of 3b (0.15 g, 0.17 mmol) (see FIG. 6) in DMF (1 mL) was then added, followed by collidine (0.08 mL, 0.63 mmol). The reaction was stirred at 4° C. overnight and then precipitated from EtOAc, centrifuged and the resulting solid washed with MeCN. The desired compound was purified by HPLC (2-30% MeCN) to give 0.3 g of Ie as a white solid.

reactant | Vancomycin hydrochloride | C[C@H]1[C@H]([C@@](C[C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H](O[C@H]2OC=3C4=CC5=CC3OC=6C=CC(=CC6Cl)[C@H]([C@H](C(=O)N[C@H](C(=O)N[C@H]5C(=O)N[C@@H]7C=8C=CC(=C(C8)C9=C(C=C(C=C9O)O)[C@H](NC(=O)[C@H]([C@@H](C=1C=CC(=C(C1)Cl)O4)O)NC7=O)C(=O)O)O)CC(=O)N)NC(=O)[C@@H](CC(C)C)NC)O)CO)O)O)(C)N)O.Cl
reactant | PyBOP | 0.21 mmol, 0.11 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | HOAT | 0.21 mmol, 0.03 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIPEA | 0.21 mmol, 0.04 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | 0.21 mmol, 0.02 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | collidine | 0.63 mmol, 0.08 mL | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | Vancomycin | C[C@H]1[C@H]([C@@](C[C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H](O[C@H]2OC=3C4=CC5=CC3OC=6C=CC(=CC6Cl)[C@H]([C@H](C(=O)N[C@H](C(=O)N[C@H]5C(=O)N[C@@H]7C=8C=CC(=C(C8)C9=C(C=C(C=C9O)O)[C@H](NC(=O)[C@H]([C@@H](C=1C=CC(=C(C1)Cl)O4)O)NC7=O)C(=O)O)O)CC(=O)N)NC(=O)[C@@H](CC(C)C)NC)O)CO)O)O)(C)N)O | C66H75Cl2N9O24
